US06207667B1
4-(6,7-Dimethoxy-4-quinazolinyl)-N-(3-isopropylphenyl)-1-piperazinecarboxamide (Compound 150)
To a solution of 2.05 g (9.39 mmol) of di-tert-butyl dicarbonate in 30 ml of dichloromethane was added 108 mg (0.88 mmol) of 4-(N,N-dimethylamino)pyridine. After the mixture was stirred at room temperature for 5 minutes, 1.26 ml (8.95 mmol) of 3-isopropylaniline was added thereto, followed by further stirring at room temperature for 30 minutes. To the reaction mixture was added 548 mg (2.00 mmol) of 6,7-dimethoxy-4-piperazinylquinazoline obtained by the method described in South African Patent No. 67 06512 (1968), followed by stirring at room temperature for 30 minutes. After the solvent was evaporated, the residue was purified by silica gel chromatography and recrystallized from ethyl acetate to give the desired compound as colorless crystals.

reactant | di-tert-butyl dicarbonate | 9.39 mmol, 2.05 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-isopropylaniline | 8.95 mmol, 1.26 ml | C(C)(C)C=1C=C(N)C=CC1 | C9H13N
reactant | 6,7-dimethoxy-4-piperazinylquinazoline | 2.00 mmol, 548 mg | COC=1C=C2C(=NC=NC2=CC1OC)N1CCNCC1 | C14H18N4O2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 0.88 mmol, 108 mg | CN(C)C1=CC=NC=C1 | C7H10N2
product | 4-(6,7-Dimethoxy-4-quinazolinyl)-N-(3-isopropylphenyl)-1-piperazinecarboxamide | Yield: 63% | COC=1C=C2C(=NC=NC2=CC1OC)N1CCN(CC1)C(=O)NC1=CC(=CC=C1)C(C)C | C24H29N5O3
